US05840911
b) 1,2-Diamino-4-(3-methoxy-phenyl)-imidazole
A solution of 8.1 g of 2-amino-1-benzylideneamino-4-(3-methoxyphenyl)-imidazole and 5.5 ml of hydrazine hydrate in 28 ml of diethylene glycol is stirred at 170° C. for 7 hours. After cooling, 150 ml of water are added to the reaction mixture. The product that has separated out is filtered off with suction, washed with water and recrystallized from 100 ml of ethanol. In that manner there is obtained the title compound, m.p. 181°-182° C., 1H-NMR (DMSO): δ=7.17 (m, 3H); 7.06 (s, 1H); 6.64 (m, 1H); 5.52 (s, 2H); 5.35 (s, 2H); 3.74 (s, 3H).

reactant | 2-amino-1-benzylideneamino-4-(3-methoxyphenyl)-imidazole | 8.1 g | NC=1N(C=C(N1)C1=CC(=CC=C1)OC)N=CC1=CC=CC=C1 | C17H16N4O
reactant | hydrazine hydrate | 5.5 ml | O.NN
reactant | water | 150 ml | O | H2O
solvent | diethylene glycol | 28 ml | C(COCCO)O | C4H10O3
product | 1,2-Diamino-4-(3-methoxy-phenyl)-imidazole | NN1C(=NC(=C1)C1=CC(=CC=C1)OC)N | C10H12N4O
